US04910200
z-3-(Biphenyl-4-yl)-3-(3,4-dimethoxyphenyl)-acrylic acid morpholide
Analogous to Example 21, the title compound was prepared starting from 3,4-dimethoxycinnamic acid morpholide and 4-bromo-biphenyl.

reactant | 3,4-dimethoxycinnamic acid morpholide | COC=1C=C(C=CC(=O)N2CCOCC2)C=CC1OC | C15H19NO4
reactant | 4-bromo-biphenyl | BrC1=CC=C(C=C1)C1=CC=CC=C1 | C12H9Br
product | z-3-(Biphenyl-4-yl)-3-(3,4-dimethoxyphenyl)-acrylic acid morpholide | C1(=CC=C(C=C1)/C(=C/C(=O)N1CCOCC1)/C1=CC(=C(C=C1)OC)OC)C1=CC=CC=C1 | C27H27NO4
